US07157488B2
7-Cyano-1H-indole
Combine 7-bromoindole (4.72 g, 24.0 mmol) and copper cyanide (4.30 g, 48.1 mmol) in 1-methyl-2-pyrrolidine (40 mL). Heat to 200° C. After 2.5 hours, cool to room temperature, add water-ethyl acetate (200 mL, 1/1) to give a solid. Filter through the celite, extract the filtrate with ethyl acetate, combine the organic layers, wash with brine, dry over Na2SO4, filter and evaporate in vacuo to give a residue. Chromatograph the residue on silica gel eluting with hexanes: ethyl acetate (10:1) to give (1.87 g) of the title compound as a yellow solid: 1H NMR (300 MHz, DMSO-d6)) 6.64–6.66 (m, 1H), 7.17 (t, 1H, J=7.6 Hz), 7.51–7.53 (m, 1H), 7.60–7.62 (m, 1H), 7.94 (d, 1H, J=8.0 H), 12.03 (br, 1H).

reactant | 7-bromoindole | 24.0 mmol, 4.72 g | BrC=1C=CC=C2C=CNC12 | C8H6BrN
reactant | copper cyanide | 48.1 mmol, 4.30 g | [Cu](C#N)C#N
solvent | water ethyl acetate | 200 mL | O.C(C)(=O)OCC
product | 7-Cyano-1H-indole | 1.87 g | C(#N)C=1C=CC=C2C=CNC12 | C9H6N2
